US06323202B1
A 60% dispersion of NaH in mineral oil (917 mg, 22.9 mmol) was added over 20 min to a solution of ethyl 3-nitro-β-oxobenzenepropanoate (5.00 g, 21.1 mmol) in THF (50 mL) at such a rate to maintain a gentle reflux. The mixture was stirred at 25° for 30 min and a solution of crotyl bromide (2.95 g, 21.9 mmol) in THF (15 mL) was added over 50 min. The reaction mixture was stirred at 25° for 45 min and then heated at reflux for 16 h. Hexane (100 mL) was added to the cooled mixture. The resulting suspension was filtered and the filtrate was concentrated under reduced pressure. The residue was dissolved in EtOAc and the resulting solution was washed with aqueous 10% citric acid (2×), aqueous saturated NaHCO3 (2×) and brine then was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (40-63μ silica gel, hexane:EtOAc, 9:1) to afford ethyl α-(2-butenyl)-3-nitro-β-oxobenzenepropanoate (4.60 g, 75% yield):

reactant | NaH | [H-].[Na+]
reactant | ethyl 3-nitro-β-oxobenzenepropanoate | 21.1 mmol, 5.00 g | [N+](=O)([O-])C=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11NO5
reactant | crotyl bromide | 21.9 mmol, 2.95 g | C(C=CC)Br | C4H7Br
reactant | Hexane | 100 mL | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | ethyl α-(2-butenyl)-3-nitro-β-oxobenzenepropanoate | 4.60 g, 75% yield | C(C=CC)C(C(=O)OCC)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H17NO5
